data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2(C)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)C(C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)C(C)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(C)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)C(C)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Cl)c(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1ccc(Cl)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1ccc(Cl)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1ccc(Cl)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc(Cl)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc(Cl)c2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)C(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2O3)cc1", "products": "CC1OC2OC1C1C(=O)C21"}, {"reactants": "CC1OC2OC1C1C(=O)C21.[O-]C", "products": "COC1([O-])C2C3OC(C)C(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(C)C(O3)C21.CO", "products": "COC(=O)C1CC2OC1OC2C"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1C", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1C"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1C", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1C", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1C"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(C(C)C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C(C)C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C(C)C)c1)C(C)C", "products": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "CC(C)c1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Br)ccc(F)c1Cl.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(F)c1Cl"}, {"reactants": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(F)c1Cl", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(F)c2Cl"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(F)c2Cl", "products": "CN1C(=O)C2(C=CCC2)c2c1ccc(F)c2Cl.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "FC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1cccc(Cl)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2cccc(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2cccc(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1cccc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1cccc(Cl)c1", "products": "O=C1CCN2C[C@H](OC(F)c3cccc(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1)C(C)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
